US07585885B2
(S)-2-sec-Butylamino-6-methylsulfanyl-isonicotinic acid methyl ester
Add toluene (20 mL), (S)-2-sec-butylamino-6-chloro-isonicotinic acid methyl ester (2.01 g, 8.29 mmol), palladium acetate (186 mg, 0.83 mmol), racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (516 mg, 0.83 mmol), cesium carbonate (5.40 g, 16.6 mmol), and sodium thiomethoxide (1.16 g, 16.6 mmol) to a sealed vessel flushed with nitrogen. Heat the sealed vessel at 90° C. overnight. Cool to room temperature and filter the solution through a filtering agent and concentrate the filtrate. Purify the residue (silica gel chromatography, eluting with ethyl acetate:hexanes 90:10) to give the title compound (1.4 g, 66%).

reactant | (S)-2-sec-butylamino-6-chloro-isonicotinic acid methyl ester | 8.29 mmol, 2.01 g | COC(C1=CC(=NC(=C1)Cl)N[C@@H](C)CC)=O | C11H15ClN2O2
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.83 mmol, 516 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 16.6 mmol, 5.40 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium thiomethoxide | 16.6 mmol, 1.16 g | C[S-].[Na+]
catalyst | palladium acetate | 0.83 mmol, 186 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-sec-Butylamino-6-methylsulfanyl-isonicotinic acid methyl ester | 1.4 g, 66% | COC(C1=CC(=NC(=C1)SC)N[C@@H](C)CC)=O | C12H18N2O2S
